US06790860B2
To a suspension of 281 mg (2.0 mmol, 4 eq.) potassium carbonate in 2 ml DMSO were added 300 mg (0.51 mmol) (2S,4R)-2-azidomethyl-1-(naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine and 72 μl (0.7 mmol, 1.38 eq) acetyl acetone. The reaction mixture was stirred at 40° C. for 3 d, diluted with water and extracted with Et2O, the layers were separated and the inorganic one was extracted with EtOAc, the combined organic layers were washed with brine, dried over Na2SO4 and evaporated. The residue was purified by column chromatography on silica gel with EtOAc/hexane 1:1 yielding 249 mg (73%) (2S,4R)-1-{5-methyl-1-[1-(naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidin-2-ylmethyl]-1H-[1,2,3]triazol-4-yl}-ethanone as white foam, MS: 673 (MH+). 150 mg (0.2 mmol) (2S,4R)-1-{5-methyl-1-[1-(naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidin-2-ylmethyl]-1H-[1,2,3]triazol-4-yl}-ethanone were dissolved in 6.5 ml acetonitrile and 3 ml TFA and were treated with 0.5 ml triethylsilane at 40° C. for 4 h. The reaction mixture was added to a aqueous saturated NaHCO3 solution carefully, extracted, and the organic layer was washed with water and brine, dried over Na2SO4 and evaporated. Purification by column chromatography on silica gel with EtOAc/hexane 1:1 gave 63 mg (66%) (2S,4R)-1-[1-[4-mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidin-2-ylmethyl]-5-methyl-1H-[1,2,3]triazol-4-yl]-ethanone as white solid, mp 145° C., MS: 431 (MH+).

reactant | potassium carbonate | 2.0 mmol, 281 mg, 4 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | (2S,4R)-2-azidomethyl-1-(naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine | 0.51 mmol, 300 mg | N(=[N+]=[N-])C[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C34H30N4O2S2
reactant | acetyl acetone | 0.7 mmol, 72 μl, 1.38 eq | C(C)(=O)CC(C)=O | C5H8O2
reactant | (2S,4R)-1-{5-methyl-1-[1-(naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidin-2-ylmethyl]-1H-[1,2,3]triazol-4-yl}-ethanone | 0.2 mmol, 150 mg | CC1=C(N=NN1C[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C(C)=O | C39H36N4O3S2
reactant | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 0.5 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | acetonitrile | 6.5 ml | C(C)#N | C2H3N
product | (2S,4R)-1-[1-[4-mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidin-2-ylmethyl]-5-methyl-1H-[1,2,3]triazol-4-yl]-ethanone | 63 mg, 66% | S[C@@H]1C[C@H](N(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)CN1N=NC(=C1C)C(C)=O | C20H22N4O3S2
